US04849422
Operation was carried out in a manner similar to the one previously described in Example 5, using 1.6 g of 6-chloronicotinic acid and 3.2 g of 1-(2,3-dihydroxypropyl)piperazine in 50 ml dioxane. Grams 1.95 of 6-[4-(2,3-dihydroxypropyl)piperazin-1-yl]nicotinic acid were obtained, which, recrystallized from hot water, melted at 244°-246° C. (with decomposition).

reactant | 6-chloronicotinic acid | 1.6 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 1-(2,3-dihydroxypropyl)piperazine | 3.2 g | OC(CN1CCNCC1)CO | C7H16N2O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-[4-(2,3-dihydroxypropyl)piperazin-1-yl]nicotinic acid | OC(CN1CCN(CC1)C1=NC=C(C(=O)O)C=C1)CO | C13H19N3O4
